US09359336B2
A mixture of 3-((3-aminophenyl)ethynyl)-5-(2-(3-((tert-butyldimethylsilyl)oxy)propyl)-2H-tetrazol-5-yl)pyridin-2-amine (135 mg, 0.3 mmol, 1 eq) and 4-chloro-3-(trifluoromethyl)phenyl isocyanate (67 mg, 1 eq) in anhydrous tetrahydrofuran (3 mL) was stirred at room temperature and under nitrogen atmosphere for 3 hours. The mixture was then diluted with ethyl acetate, washed sequentially with aqueous ammonium chloride, saturated aqueous sodium bicarbonate, and brine, and dried with anhydrous sodium sulfate. The clear solution was decanted, concentrated under reduced pressure, and the resulting clear oil was dried in vacuo for 5 minutes. It was then treated with a small amount of EtoAc-Hex (1:9), followed by stirring at room temperature for 30 minutes. The white solid that appeared during the process was filtered giving 1-(3-((2-amino-5-(2-(3-((tert-butyldimethylsilyl)oxy)propyl)-2H-tetrazol-5-yl)pyridin-3-yl)ethynyl)phenyl)-3-(4-chloro-3-(trifluoromethyl)phenyl)urea in the amount of 201 mg.

reactant | 3-((3-aminophenyl)ethynyl)-5-(2-(3-((tert-butyldimethylsilyl)oxy)propyl)-2H-tetrazol-5-yl)pyridin-2-amine | 0.3 mmol, 135 mg, 1 eq | NC=1C=C(C=CC1)C#CC=1C(=NC=C(C1)C=1N=NN(N1)CCCO[Si](C)(C)C(C)(C)C)N | C23H31N7OSi
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | 67 mg, 1 eq | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-((2-amino-5-(2-(3-((tert-butyldimethylsilyl)oxy)propyl)-2H-tetrazol-5-yl)pyridin-3-yl)ethynyl)phenyl)-3-(4-chloro-3-(trifluoromethyl)phenyl)urea | NC1=NC=C(C=C1C#CC=1C=C(C=CC1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)C=1N=NN(N1)CCCO[Si](C)(C)C(C)(C)C | C31H34ClF3N8O2Si
